US08492582B2
Potassium acetate (2.0 g), bis(pinacolato)diboron (3.4 g), and (1,1′-bis(diphenylphosphino)ferrocene)palladium(II) dichloride methylene chloride complex (0.27 g) were added to a dioxane (20 mL) solution of tert-butyl 4-bromo-2-nitrobenzoate (2.0 g), followed by stirring under a nitrogen atmosphere at 95 to 100° C. for 2 hours. After cooling the reaction mixture to room temperature, the insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 80% hexane/ethyl acetate] and then purified by silica gel column chromatography [eluent: 95-90% hexane/ethyl acetate] to obtain 2.0 g of tert-butyl 2-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate as a white solid.

reactant | Potassium acetate | 2.0 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 3.4 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | tert-butyl 4-bromo-2-nitrobenzoate | 2.0 g | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C11H12BrNO4
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 2-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 2.0 g | [N+](=O)([O-])C1=C(C(=O)OC(C)(C)C)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H24BNO6
